US04935431
(c) 4-Methoxy-3-thiophenecarbonyl azide
4-Methoxy-3-thiophenecarboxylic acid hydrazide (20 g, 0.116 mol) in 3N hydrochloric acid (200 ml), acetic acid (200 ml) and chloroform (300 ml) was cooled to 0°. Sodium nitrite (8 g, 0.116 mol) in water (25 ml) was added dropwise whilst maintaining the temperature at 0°. On completion of the addition the reaction mixture was allowed to warm up to room temperature. The organic layer was separated, washed with sodium bicarbonate solution (3 times), dried over sodium sulphate and the solvent evaporated without heat to give the title compound as a buff-coloured solid, 21.2 g.

reactant | 4-Methoxy-3-thiophenecarboxylic acid hydrazide | 0.116 mol, 20 g | COC=1C(=CSC1)C(=O)NN | C6H8N2O2S
reactant | Sodium nitrite | 0.116 mol, 8 g | N(=O)[O-].[Na+]
solvent | hydrochloric acid | 3N, 200 ml | Cl | ClH
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 25 ml | O | H2O
product | 4-Methoxy-3-thiophenecarbonyl azide | COC=1C(=CSC1)C(=O)N=[N+]=[N-] | C6H5N3O2S
